* Full combinational circuit for CA2 - Advanced VLSI
.include "32nm_bulk.pm.txt"

.param VDD = 1.8
.param L = 32n
.param Wn = 32n
.param Wp = '2*Wn'

* Parameters for gate sizing based on logical effort calculations
.param size_nor2_w = 7    * Will be calculated
.param size_nor3 = 6      * Will be calculated
.param size_nand2_j = 6   * Will be calculated
.param size_nand2_out = 6 * Will be calculated
.param size_nand2_k = 6   * Will be calculated
.param size_inv_n = 24    * Given in the problem

Vdd vdd 0 DC 'VDD'
* Correct rise/fall time to 0.01ns
Vin A 0 PULSE(0 'VDD' 0 0.01n 0.01n 0.5n 1.0n)

* Subcircuit definitions

* Inverter
.subckt inverter in out vdd 0 size=1
Mp out in vdd vdd pmos W='Wp*size' L='L'
Mn out in 0   0   nmos W='Wn*size' L='L'
.ends

* NAND2 gate
.subckt nand2 a b out vdd 0 size=1
Mp1 out a vdd vdd pmos W='Wp*size' L='L'
Mp2 out b vdd vdd pmos W='Wp*size' L='L'
Mn1 out a net1 0   nmos W='Wn*size' L='L'
Mn2 net1 b 0   0   nmos W='Wn*size' L='L'
.ends

* NOR3 Gate
.subckt nor3 a b c out vdd 0 size=1
Mp1 out a net1 vdd pmos W='Wp*size' L='L'
Mp2 net1 b net2 vdd pmos W='Wp*size' L='L'
Mp3 net2 c vdd vdd pmos W='Wp*size' L='L'
Mn1 out a 0 0 nmos W='Wn*size' L='L'
Mn2 out b 0 0 nmos W='Wn*size' L='L'
Mn3 out c 0 0 nmos W='Wn*size' L='L'
.ends

* NOR2 Gate
.subckt nor2 a b out vdd 0 size=1
Mp1 out a net1 vdd pmos W='Wp*size' L='L'
Mp2 net1 b vdd vdd pmos W='Wp*size' L='L'
Mn1 out a 0 0 nmos W='Wn*size' L='L'
Mn2 out b 0 0 nmos W='Wn*size' L='L'
.ends

* --- Netlist main circuit ---

* Step 1: w = NOR2(A, 0)
Vgnd0_1 z1 0 DC 0             
Xnor2_gate A z1 w vdd 0 nor2 size='size_nor2_w'

* Step 2: i = NOR3(w, 0, 0)
Vgnd0_2 z2 0 DC 0
Vgnd0_3 z3 0 DC 0
Xnor_i w z2 z3 i vdd 0 nor3 size='size_nor3'

* Step 3: x = NOR3(w, 0, 0)
Vgnd0_4 z4 0 DC 0
Vgnd0_5 z5 0 DC 0
Xnor_x w z4 z5 x vdd 0 nor3 size='size_nor3'

* Step 4: j = NAND2(1, x)
Vvdd1_1 z6 0 DC 'VDD'             
Xnand2_j z6 x j vdd 0 nand2 size='size_nand2_j'

* Step 5: out = NAND2(x, 1)
Vvdd1_2 z7 0 DC 'VDD'              
Xnand2_out x z7 out vdd 0 nand2 size='size_nand2_out'

* Step 6: k = NAND2(x, 1)
Vvdd1_3 z8 0 DC 'VDD'             
Xnand2_k x z8 k vdd 0 nand2 size='size_nand2_k'

* Step 7: n1 = NOT(out)
Xinv_n1 out n1 vdd 0 inverter size= 1

* Step 8: out2 = NOT(n1)
Xinv_out2 n1 out2 vdd 0 inverter size= 1

* Cap load - based on the problem statement
Cl n 0 72f

* Step 7: n = NOT(out2)
Xinv_n out2 n vdd 0 inverter size='size_inv_n'

* Transient analysis
.tran 1p 2n

* Measurements for all nodes
.measure tran delay_w TRIG v(A) VAL='VDD/2' RISE=1 TARG v(w) VAL='VDD/2' FALL=1
.measure tran delay_i TRIG v(w) VAL='VDD/2' FALL=1 TARG v(i) VAL='VDD/2' RISE=1
.measure tran delay_x TRIG v(w) VAL='VDD/2' FALL=1 TARG v(x) VAL='VDD/2' RISE=1
.measure tran delay_j TRIG v(x) VAL='VDD/2' RISE=1 TARG v(j) VAL='VDD/2' FALL=1
.measure tran delay_out TRIG v(x) VAL='VDD/2' RISE=1 TARG v(out2) VAL='VDD/2' FALL=1
.measure tran delay_k TRIG v(x) VAL='VDD/2' RISE=1 TARG v(k) VAL='VDD/2' FALL=1
.measure tran delay_n TRIG v(out2) VAL='VDD/2' FALL=1 TARG v(n) VAL='VDD/2' RISE=1

* Output node rise and fall time
.measure tran trise TRIG v(out2) VAL='0.1*VDD' RISE=1 TARG v(out2) VAL='0.9*VDD' RISE=1
.measure tran tfall TRIG v(out2) VAL='0.9*VDD' FALL=1 TARG v(out2) VAL='0.1*VDD' FALL=1
.measure tran tpd param='(trise+tfall)/2'

* Total path delay
.measure tran tpdr TRIG v(A) VAL='VDD/2' RISE=1 TARG v(out2) VAL='VDD/2' FALL=1
.measure tran tpdf TRIG v(A) VAL='VDD/2' FALL=1 TARG v(out2) VAL='VDD/2' RISE=1

* Path delay components
.measure tran td_a_w TRIG v(A) VAL='VDD/2' RISE=1 TARG v(w) VAL='VDD/2' FALL=1
.measure tran td_w_x TRIG v(w) VAL='VDD/2' FALL=1 TARG v(x) VAL='VDD/2' RISE=1
.measure tran td_x_out TRIG v(x) VAL='VDD/2' RISE=1 TARG v(out2) VAL='VDD/2' FALL=1
.measure tran td_out_n TRIG v(out2) VAL='VDD/2' FALL=1 TARG v(n) VAL='VDD/2' RISE=1
.measure tran total_delay param='td_a_w+td_w_x+td_x_out'

* Power measurement
.measure tran power avg power

* alter the size of NOR3 
.alter
.param size_nor3 = 1
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 2 
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 3
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 4
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 5
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 6 
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 7 
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 8
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 9 
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 10 
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 11
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 12
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 13
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 14
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 15
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 16
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 17 
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 18
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 19
.tran 1p 2n

* alter the size of NOR3 
.alter
.param size_nor3 = 20 
.tran 1p 2n

* Plot commands for visualization
*.plot tran v(A) v(w) v(i) v(x) v(j) v(k) v(out) v(n)
.option post=2

.end